US04156732
2-Ethyl-3-(4-chloro-3-methylsulfamoylbenzoyl)-benzo[b]furan
is obtained as described in Example 1 from 10.7 g 4-chloro-3-methylsulfamoylbenzoyl chloride and 6.4 g 2-ethylbenzo[b]furan in the form of amorphous solids having a softening point of 63° C.

reactant | 4-chloro-3-methylsulfamoylbenzoyl chloride | 10.7 g | ClC1=C(C=C(C(=O)Cl)C=C1)S(NC)(=O)=O | C8H7Cl2NO3S
reactant | 2-ethylbenzo[b]furan | 6.4 g | C(C)C1=CC2=C(O1)C=CC=C2 | C10H10O
product | 2-Ethyl-3-(4-chloro-3-methylsulfamoylbenzoyl)-benzo[b]furan | C(C)C1=C(C2=C(O1)C=CC=C2)C(C2=CC(=C(C=C2)Cl)S(NC)(=O)=O)=O | C18H16ClNO4S
